US07019026B1
To a solution of 4-hydroxyphthalic acid (0.45 g, 2.47 mmol) in anhydrous N,N-dimethylformamide (5 ml) under nitrogen was added chloromethyl methyl ether (1.13 ml, 14.8 mmol) and diisopropylethylamine (2.6 ml, 14.8 mmol). The reaction was stirred at ambient temperature for 18 hours and then concentrated in vacuo. The crude material was partitioned between ethyl acetate (50 ml) and water (15 ml). The layers were separated, the organic layer washed with water (3×10 ml), brine (2×10 ml), dried (Na2 SO4), filtered and the solvent evaporated in vacuo. The resulting oil was dissolved in ethanol (5 ml) and sodium hydroxide (0.12 g, 7.4 mmol) dissolved in water (1 ml) was added to the reaction. The solution was stirred at ambient temperature for 48 hours and then concentrated in vacuo affording 4-methoxymethoxy-phthalic acid di-sodium salt, which was used without purification.

reactant | 4-hydroxyphthalic acid | 2.47 mmol, 0.45 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | chloromethyl methyl ether | 14.8 mmol, 1.13 ml | COCCl | C2H5ClO
reactant | diisopropylethylamine | 14.8 mmol, 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 7.4 mmol, 0.12 g | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 1 ml | O | H2O
product | 4-methoxymethoxy-phthalic acid di-sodium salt | [Na+].[Na+].COCOC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-] | InChI=1S/C10H10O6.2Na/c1-15-5-16-6-2-3-7(9(11)12)8(4-6)10(13)14;;/h2-4H,5H2,1H3,(H,11,12)(H,13,14);;/q;2*+1/p-2
